Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Adhesive Tape / Topical 
Anesthetic
 
Attending: ___
 
___ Complaint:
Pelvic pain after fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with a past medical history of Alzheimer's
disease, stroke, A. fib on Eliquis, who is DNR/DNI presenting
from nursing home, with daughter as primary historian, presented
with chief complaint of pelvic fracture status post fall earlier
today. Unknown head strike, unknown loss of consciousness.
Daughter states that patient was found in the bathroom on the
floor where he was pacing she went to use the restroom. Patient
not currently endorsing any headaches, dizziness, chest pain,
shortness of breath. Patient only endorsing bilateral pelvic
pain. Patient was taken to outside facility where a CT of the
pelvis showed pelvic fracture. Patient was transferred here for
Ortho evaluation. Daughter denies patient has any abdominal 
pain,
diarrhea, constipation, recent fevers, chills. She does state 
the
patient has had multiple falls in the past few weeks and so she
decided to stop patient's Eliquis last ___.

In the ED, initial VS were 97.5 82 130/71 16 95% RA. 
Labs were notable for a WBC of 10.2, H/H of 9.3/29.2, Plt 172.
BMP WNL. CK elevated at 252. UA negative.
CT chest without small bilateral pleural effusions and main
pulmonary artery dilatation.
CT Cspine without acute fracture or malalignment.
CT head without intracranial abnormality.
CXR showed pleural effusion but no focal consolidation, as well
as diffuse osseous demineralization, and possible indeterminate
aged lateral right rib fracture.
The patient received multiple doses of IV morphine as well as
home antihypertensives. She received 0.5 mg lorazepam prior to
transfer.
She was evaluated by orthopedic surgery who recommended non
operative management of her pelvic fracture. She was seen by ___
who recommended rehab.
 
Upon arrival to the floor, the patient's daughter confirms the
story as above. She reports that the patient was found on the
floor in the bathroom, with an unwitnessed fall. She reports
prior to the fall, she would ambulate slowly down a long hallway
with a walker. However, the patient has had increasing 
difficulty
with balance recently and has had frequent falls prompting the
cessation of her eliquis. The daughter reports that other
medications (possibly losartan and amlodipine) had recently been
stopped in the outpatient setting to reduce polypharmacy. The
daughter reports her mother has difficulty swallowing
medications. She denies recent illnesses prior to this fall, or
any known fevers, chills, chest pain, or shortness of breath. 
She
reports that since her ED stay, her mother has increased
confusion and since receiving opiates, has increased sleepiness.
The patient answers basic yes or no questions but is unable to
state where she currently has pain, so further ROS can not be
obtained.

 
Past Medical History:
- Alzheimer's disease
- Atrial Fibrillation
- Left posterior parietal occipital stroke. 
- Patent foramen ovale.
- Conductive aphasia.
- Right inferior quadrantanopsia.
- GERD
- Mitral Valve Prolapse
- Anxiety

 
Social History:
___
Family History:
Has daughter who is alive
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.2 PO 136 / 63 84 18 93 RA 
GENERAL: awakens to voice, answers some questions appropriately,
keeps eyes closed unlessed prompted otherwise, grimaces even 
with
light touch
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart irregular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EXT: extremities warm, without edema
NEURO: Alert to voice, not oriented to place or time, face
symmetric, gaze conjugate with EOMI, speech fluent, answers
questions appropriately, follows most commands, moves R foot to
command, keeps L leg in flexion and will not move spontaneously,
grip strength ___ bilaterally
PSYCH: pleasant, appropriate affect
===================
VITALS: ___ ___ Temp: 97.3 PO BP: 139/72 HR: 80 RR: 18 O2 
sat: 97% O2 delivery: RA 
GENERAL: Alert and in no apparent distress, appears comfortable,
responds to questions verbally
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist
mucus membranes.
CV: Irregular rhythm, no murmurs/rubs, no S3, no S4. 2+ radial
pulses bilaterally.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation. 
Bowel sounds present.  
GU: Has Foley
MSK: Moves all extremities, no edema, tender to palpation over
both upper legs and pelvic area
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person and hospital but not city or
time, face symmetric, speech fluent but slow, moves all limbs, 
difficulty moving legs due to pain but able to move both feet, 
intact and equal sensation to light touch in both legs
PSYCH: Pleasant affect, calm, cooperative

 
Pertinent Results:
LABS ON ADMISSION:

___ 03:19PM BLOOD WBC-10.2* RBC-2.92* Hgb-9.3* Hct-29.2* 
MCV-100* MCH-31.8 MCHC-31.8* RDW-15.4 RDWSD-57.2* Plt ___
___ 03:19PM BLOOD Neuts-83.2* Lymphs-6.4* Monos-9.3 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-8.46* AbsLymp-0.65* 
AbsMono-0.95* AbsEos-0.03* AbsBaso-0.02

___ 03:19PM BLOOD ___ PTT-29.9 ___
___ 03:19PM BLOOD Glucose-114* UreaN-14 Creat-0.7 Na-135 
K-4.6 Cl-101 HCO3-23 AnGap-11
___ 03:19PM BLOOD CK(CPK)-252*
___ 03:19PM BLOOD Calcium-8.8 Phos-3.8 Mg-2.0
___ 03:30PM URINE Color-Straw Appear-Clear Sp ___
___ 03:30PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:30PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
==================
LABS ON DISCHARGE:
___ 06:05AM BLOOD WBC-8.4 RBC-3.28* Hgb-10.5* Hct-32.8* 
MCV-100* MCH-32.0 MCHC-32.0 RDW-14.6 RDWSD-53.3* Plt ___
___ 06:05AM BLOOD Glucose-99 UreaN-13 Creat-0.6 Na-139 
K-3.8 Cl-99 HCO3-29 AnGap-11
___ 06:05AM BLOOD Mg-2.1
==================
MICROBIOLOGY:
___ 3:30 pm URINE      SOURCE: CATHETER. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 
==================
Pelvic x-ray ___ ___
Fracture of the right superior and inferior pubic rami not seen
on the previous exam. Moderate bilateral hip osteoarthritis.

CT HEAD WITHOUT CONTRAST ___:
1. No acute intracranial process. 
2. Chronic left posterior parietal encephalomalacia. 

CT C-SPINE WITHOUT CONTRAST ___:
No acute fracture or traumatic malalignment.  Multilevel 
degenerative changes as stated above. 

CXR ___:
Patient rotated somewhat to the right.  Small pleural effusion 
seen on 
preceding outside hospital CT was better seen on CT.  No 
evidence of 
pneumothorax or focal consolidation. 
Diffuse osseous demineralization, which limits sensitivity for 
the detection of subtle fractures.  Given this, subtle 
irregularity of the lateral right fifth rib is concerning for a 
nondisplaced fracture of indeterminate age. 
Prominence of the hila could be due to underlying 
lymphadenopathy, 
alternatively prominent vasculature. 

CT CHEST WITHOUT CONTRAST ___:
1.  Small bilateral pleural effusions with associated 
compressive atelectasis. 
2. No evidence of acute rib fracture. 
3. Main pulmonary artery dilatation measuring up to 3.4 cm may 
represent 
pulmonary arterial hypertension. 

CXR ___:
Mild interstitial pulmonary edema, slightly improved in the 
interval, with 
small bilateral pleural effusions and bibasilar atelectasis. 

 
Brief Hospital Course:
Ms. ___ is an ___ female with  Alzheimer's disease, 
prior stroke, chronic atrial fibrillation on Eliquis (but 
recently stopped due to falls), who presented from her nursing 
home, after an unwitnessed fall and was found to have a pelvic 
fracture.  She was evaluated by orthopedics who recommended 
non-operative management given her comorbidities and that SI and 
hip joints are congruent.  She was treated for pelvic pain and 
___ recommended STR.  She was discharged to ___ short term 
rehab facility.

ACUTE/ACTIVE PROBLEMS:
# Acute pelvic fracture: Initially, operative repair was 
considered. However, per orthopedics, this is a large iliac wing 
fracture, but SI joint on the left and the hip joint remain 
nicely congruent. Ortho discussed with the patient's daughter 
and recommended non-operative management given her functional 
needs and cognitive decline. Ortho recommended non-weight 
bearing of left lower extremity. She will need follow up with 
___ (___ NP) in 2 weeks for repeat films.  The 
patient arrived to floor with Foley and was very uncomfortable 
with positioning.  Strongly considered removing Foley due to 
infection risk and trying Purewick, but she was having 
significant pain with any movement or repositioning, so the 
benefits of better pain control and agitation reduction acutely 
outweighed infection risk.  She was discharged to STR with 
Foley, but need to reassess need for it daily and remove as soon 
as feasible.
- Pain management with scheduled Tylenol 1g TID, PRN Tramadol 
and Oxycodone ___ Q3H PRN), daily lidocaine patch.  Reviewed 
___ and she was previously prescribed Tramadol on ___ 
and Morphine on ___.
- Trying to avoid benzodiazepines, but she was notably anxious 
and this was exacerbating her pain, so gave 1 time dose of PO 
Ativan 0.25mg on ___.  

# Mechanical, unwitnessed fall: Patient with multiple recent 
falls in the setting of advanced dementia. No further history to 
illicit cause of falls. No leukocytosis, negative urine culture, 
no localizing signs or symptoms of infection.  EKG showed no 
significant changes concerning for ischemia. Given her atrial 
fibrillation and recent discontinuation of Eliquis, she is at 
risk for stroke, although no localizing neurologic deficits seen 
on exam. No evidence of hypovolemia. CT head and C-Spine were 
negative. The only injury sustained was pelvic fracture as 
above. ___ evaluated and recommended STR.  

# Alzheimer's versus vascular dementia: She was oriented to 
person and hospital, but not time.  She was intermittently 
confused, which appears to be close to baseline.  She was 
continued on Buproprion and Escitalopram.  She was on Lorazepam 
0.5 mg QHS at home (had been prescribed 30 tabs on ___ as 
outpatient), but reduced to 0.25mg QHS PRN. Wanted to avoid 
withdrawal, so did not stop the Ativan completely but would 
recommend trying to get her off it completely.  
- Given patient's recent discontinuation of Eliquis (prior to 
admission due to frequent falls), may consider additional of 
aspirin 81 mg given prior stroke 

# Small bilateral pleural effusions, mild interstitial edema: 
Imaging finding with evidence of small pleural effusions, mild 
interstitial edema, and atelectasis. Patient is stable on room 
air. Given patient's goals to reduce medications, unlikely that 
TTE indicated at this time.

CHRONIC/STABLE PROBLEMS:
# HTN: Daughter reports patient has recently stopped taking 
Lisinopril and amlodipine to decrease polypharmacy.  She was 
normotensive, so these medications were held.

# Atrial fibrillation: Previously on Eliquis, but discontinued 
by PCP due to frequent falls, the week prior to admission.  Not 
on anticoagulation due to frequent falls. Continued Metoprolol 
100mg XL daily.

============
TRANSITIONAL ISSUES:
- She will need a follow up appointment with ___ 
(ortho NP) in 2 weeks for repeat films.
- Remove Foley as soon as she can more comfortably be 
repositioned
- ___ need further titration of pain medications
- Try to wean completely off Ativan
- Consider aspirin since no longer on Eliquis
============
Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 500 mg PO QPM 
2. BuPROPion XL (Once Daily) 150 mg PO DAILY 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. LORazepam 0.5 mg PO QHS 
5. Escitalopram Oxalate 20 mg PO DAILY 
6. Docusate Sodium 100 mg PO DAILY 
7. TraMADol 25 mg PO BID 
8. amLODIPine 5 mg PO DAILY 
9. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
To pelvic area  
2.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q3H Disp #*30 Tablet 
Refills:*0 
3.  Senna 17.2 mg PO HS  
4.  Acetaminophen 1000 mg PO TID  
5.  Docusate Sodium 100 mg PO BID  
6.  LORazepam 0.25 mg PO QHS:PRN Anxiety 
RX *lorazepam 0.5 mg 0.25 mg by mouth at bedtime Disp #*4 Tablet 
Refills:*0 
7.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
8.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
9.  Escitalopram Oxalate 20 mg PO DAILY  
10.  Metoprolol Succinate XL 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pelvic fracture
Fall
Dementia
Bilateral pleural effusions
Hypertension
Atrial fibrillation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were hospitalized after a fall and have a pelvic fracture.  
You were evaluated by the orthopedic surgeons who recommended 
non-surgical management.  The surgeons recommended not bearing 
weight on your left leg.  You were given pain medications, which 
will be continued at the nursing facility.  You will work with 
physical therapy there.  
 
Followup Instructions:
___